US07858827B2
Synthesis of Diisopropoxymethylborane
Triisopropylborate (110 g, 0.585 mol) was added to trimethylboroxin (55 ml of a 50 wt % solution of trimethylboroxin in THF, 0.20 mol) under nitrogen and stirred for 5 minutes. The resulting clear solution was heated to distill off the desired diisopropoxymethylborane through a Vigreux column. The first fraction (22 g, distilling between 66-71° C.) contained mostly THF and a small amount of isopropanol. The second fraction (53 g, distilling between 74-100° C.) contained 81 wt % diisopropoxymethylborane and 19 wt % THF. The third fraction (24 g, distilling between 100-112° C.) contained 87 wt % diisopropoxymethylborane and 13 wt % triisopropoxyboroxin. The overall yield of diisopropoxymethylborane was 75.8% relative to the borate employed.

reactant | Triisopropylborate | 0.585 mol, 110 g | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | trimethylboroxin | CB1OB(OB(O1)C)C | C3H9B3O3
solvent | THF | C1CCOC1 | C4H8O
product | Diisopropoxymethylborane | C(C)(C)OC(OC(C)C)B | C7H17BO2
